US05081234
A suspension of peracetyl-D-arabinose (prepared according to the method of Evelyn, Carbohydrate Res., 1982, 100:55-61) (3 g, 9.4 mmol) and alumina (50 mg) in methanol (200 ml) was refluxed for 5 hrs. After filtration of the inorganic substance, the filtrate was concentrated in vacuo to give 2,3,4-tri-O-acetyl-D-arabinopyranose (1.46 g, 56%) as an oil.

reactant | peracetyl D-arabinose | CC(=O)O[O].O=C[C@@H](O)[C@H](O)[C@H](O)CO
solvent | methanol | 200 ml | CO | CH4O
product | 2,3,4-tri-O-acetyl-D-arabinopyranose | 1.46 g, 56% | C(C)(=O)O[C@@H]1C(O)OC[C@H]([C@H]1OC(C)=O)OC(C)=O | C11H16O8
